US05260316
To a 1M BH3 solution (300 mL, 30 mmol) @ 0° is added a solution of 6-methoxy-2-(3-phenylpropyl)-3-oxo-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide (3.3 g, 9.6 mmol) in anhydrous THF (75 mL). After addition is complete the reaction mixture is brought to reflux for 2 hours. When the mixture has cooled to ambient temperature 6N HCl is carefully added until gas evolution ceases. The volatiles are removed in vacuo and the residue extracted with EtOAc (200 mL). The organic phase is washed with saturated NaCl solution (2×200 mL), dried over MgSO4 and concentrated in vacuo. The resulting material is chromatographed (silica gel, 1:2 EtOAc/hexanes) to afford 6-methoxy-2-(3-phenylpropyl)-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide.

reactant | 6-methoxy-2-(3-phenylpropyl)-3-oxo-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide | 9.6 mmol, 3.3 g | COC=1C=CC2=C(CC(N(S2(=O)=O)CCCC2=CC=CC=C2)=O)C1 | C18H19NO4S
reactant | HCl | 6N | Cl | ClH
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 6-methoxy-2-(3-phenylpropyl)-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide | COC=1C=CC2=C(CCN(S2(=O)=O)CCCC2=CC=CC=C2)C1 | C18H21NO3S
